data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_203289_2,[C:1]([C:3]([H:14])([H:15])[H:16])([C:5](/[C:6]([C:2]([C:4]([H:17])([H:18])[H:19])([H:12])[H:13])=[N:7]\[H:9])=[O:8])([H:10])[H:11]>>[C:1]([C:3]([H:14])([H:15])[H:16])([C:5]1([C:2]([C:4]([H:17])([H:18])[H:19])([H:12])[H:13])/[C:6](=[N:7]/[H:9])[O:8]1)([H:10])[H:11],68.53492249999746
MR_305262_2,[C:1]([O:6][C:4]1([O:7][H:10])[N:2]([H:11])[O:5][C:3](=[O:8])[O:9]1)([H:12])([H:13])[H:14]>>[C:1]([O:6][C:3]([O:5][N:2]([C:4]([O:7][H:10])=[O:9])[H:11])=[O:8])([H:12])([H:13])[H:14],54.453822499986586
MR_134717_0,[C:1](\[C:2]([C:5]([C:3]([O:6][H:9])=[O:7])([O:8][H:12])[H:15])([H:13])[H:14])(=[N:4]/[H:11])[H:10]>>[C:1]([C:2]([C:5](=[O:8])[H:15])([H:13])[H:14])([C:3]([O:6][H:9])=[O:7])([N:4]([H:11])[H:12])[H:10],48.82514750003693
MR_375104_0,[C:1]([C:3]([H:14])([H:15])[H:16])([C:4]1([H:13])[C:2]([O:7][H:11])([H:12])[O:8]1)([O:5][H:9])[O:6][H:10]>>[C:1]([C:3]([H:14])([H:15])[H:16])([C:4]([C:2](=[O:7])[H:12])([O:8][H:11])[H:13])([O:5][H:9])[O:6][H:10],35.41484499997324
MR_706863_1,[C:1](\[C:6]([C:4]([H:19])([H:20])[H:21])([N:5]([C:2]([H:13])([H:14])[H:15])[H:9])[N:8]([C:3]([H:16])([H:17])[H:18])[H:11])(=[N:7]/[H:12])[H:10]>>[C:1]([N:5]([C:2]([H:13])([H:14])[H:15])[H:9])(/[C:6]([C:4]([H:19])([H:20])[H:21])=[N:8]/[C:3]([H:16])([H:17])[H:18])([N:7]([H:11])[H:12])[H:10],41.34597499997966
MR_470597_0,[C:1](/[C:5](=[C:3](\[N:2]([O:6][H:8])[O:7][H:9])[N:4]([H:10])[H:11])[H:12])([H:13])([H:14])[H:15]>>[C:1](/[C:5]([N:2]([O:6][H:8])[O:7][H:9])=[C:3](/[N:4]([H:10])[H:11])[H:12])([H:13])([H:14])[H:15],72.06774749999525
MR_200625_0,[C@@:1]([C:4]([H:17])([H:18])[H:19])(/[C:5]([C:3]([H:14])([H:15])[H:16])=[N:7]\[C:2]([H:11])([H:12])[H:13])([N:6]([H:9])[H:10])[H:8]>>[C:1](\[C:4]([H:17])([H:18])[H:19])(=[C:5](\[C:3]([H:14])([H:15])[H:16])[N:7]([C:2]([H:11])([H:12])[H:13])[H:8])[N:6]([H:9])[H:10],66.29725749997561
MR_30442_0,[C:1]1([C:2]([H:7])([H:8])[H:9])([H:6])[C:3](=[O:5])[O:4]1>>[C:1](=[C:2]([H:7])[H:8])([C:3]([O:4][H:9])=[O:5])[H:6],45.98508250000222
MR_595250_1,[C:1]([C:5]([N:8][N:2]([N:3]([N:4]([H:11])[H:12])[O:7][H:10])[O:6][H:9])[H:13])([H:14])([H:15])[H:16]>>[C:1]([C@:5]([N:3]([N:4]([H:11])[H:12])[O:7][H:10])([N:8][N:2][O:6][H:9])[H:13])([H:14])([H:15])[H:16],35.85535000000249
MR_248475_1,[C:1]([N:4]([C:6]([C:3]([H:17])([H:18])[H:19])=[C:8]([H:20])[H:21])[N:7]([H:10])[H:11])([C:5]([C:2]([H:14])([H:15])[H:16])=[O:9])([H:12])[H:13]>>[C:1](/[N:4]=[N:7]/[H:10])([C:5]([C:2]([H:14])([H:15])[H:16])([C:6]([C:3]([H:17])([H:18])[H:19])=[C:8]([H:20])[H:21])[O:9][H:11])([H:12])[H:13],65.41436499999321
MR_561264_2,[N:1]([C:3](=[O:7])[H:10])([O:4][C:2]([O:5][H:8])=[O:6])[H:9]>>[N:1]1([H:9])[C:3]([O:7][C:2]([O:5][H:8])=[O:6])([H:10])[O:4]1,68.41130499998854
MR_420995_0,[C:1]([C:3]([H:15])([H:16])[H:17])([N:4]([N:5]([H:10])[H:11])[O:6][C:2]([H:12])([H:13])[H:14])([O:7][H:8])[H:9]>>[C:1]([C:3]([H:15])([H:16])[H:17])([N:4]([N:5]([H:10])[H:11])[O:7][H:8])([O:6][C:2]([H:12])([H:13])[H:14])[H:9],60.14085500003858
MR_170942_0,[C:1]([C:2]([C:5](=[O:8])[H:15])([H:13])[H:14])([C:3]([O:6][H:9])=[O:7])([N:4]([H:11])[H:12])[H:10]>>[C:1](\[C:2]([C:5]([C:3]([O:6][H:9])=[O:7])([O:8][H:11])[H:15])([H:13])[H:14])(=[N:4]/[H:12])[H:10],54.928840000035706
MR_222009_1,[C:1]([C:5](=[C:4]([O:8][H:11])[O:9][H:10])/[C:6]([C:2]([H:16])([H:17])[H:18])=[C:7](\[C:3]([H:19])([H:20])[H:21])[H:12])([H:13])([H:14])[H:15]>>[C:1]([C:5]1=[C:6]([C:2]([H:16])([H:17])[H:18])[C:7]([C:3]([H:19])([H:20])[H:21])([H:12])[C:4]1([O:8][H:11])[O:9][H:10])([H:13])([H:14])[H:15],47.89205500000293
MR_425589_0,[C:1]([C:3]1(/[C:5](=[N:4]/[H:9])[H:11])[C:2](=[C:7]([H:17])[H:18])[N:8]1[C:6]([H:10])([H:15])[H:16])([H:12])([H:13])[H:14]>>[C:1](/[C:3]([C:2](=[C:7]([H:17])[H:18])[N:8]=[C:6]([H:15])[H:16])=[C:5](/[N:4]([H:9])[H:10])[H:11])([H:12])([H:13])[H:14],24.67894750000582
MR_441000_0,[C:1]([O:5][N:7]=[C:2]([N:3]([H:10])[H:11])[N:4]([H:12])[H:13])([O:6][H:9])=[O:8]>>[C:1]1(=[O:8])[O:5][N:7]1[C:2]([N:3]([H:10])[H:11])([N:4]([H:12])[H:13])[O:6][H:9],69.46738749999739
MR_464971_1,[C:1]([C:6]([C:2]([C:3]([H:14])([H:15])[H:16])([C:4]([H:17])([H:18])[H:19])[H:13])=[O:10])([C:7]([C:5]([H:20])([H:21])[H:22])=[C:8]([H:23])[H:24])([O:9][H:11])[H:12]>>[C:1]([C:6]([C:2]([C:3]([H:14])([H:15])[H:16])([C:4]([H:17])([H:18])[H:19])[H:13])([C:7]([C:5]([H:20])([H:21])[H:22])=[C:8]([H:23])[H:24])[O:10][H:11])(=[O:9])[H:12],49.51916250003251
MR_670763_1,[C:1]([N:6]([H:12])[H:13])([N:8]1[N:3]([C:2]([H:16])([H:17])[H:18])[C:4]1([N:5]([H:10])[H:11])[O:7][H:9])([H:14])[H:15]>>[C:1]([N:6]([H:12])[H:13])([N:8]([N:3]([C:2]([H:16])([H:17])[H:18])[H:9])[C:4]([N:5]([H:10])[H:11])=[O:7])([H:14])[H:15],27.993402499984228
MR_463096_0,[C:1]([C:3]([C:2]([H:11])([H:12])[H:13])=[C:4]([H:14])[H:15])([O:5][H:8])([O:6][H:9])[O:7][H:10]>>[C:1]1([O:5][H:8])([O:6][H:9])[C@@:3]([C:2]([H:11])([H:12])[H:13])([O:7][H:10])[C:4]1([H:14])[H:15],68.34730000000746
